US05856523
Crude tetramethyl glycolide was prepared by direct liquid phase synthesis from 2-hydroxy-2-methylpropionic acid using m-xylene as the solvent and p-toluene sulfonic acid as the catalyst. The mixture was refluxed using a Dean-Stark tube to remove water.

reactant | 2-hydroxy-2-methylpropionic acid | OC(C(=O)O)(C)C | C4H8O3
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | m-xylene | C1(=CC(=CC=C1)C)C | C8H10
product | tetramethyl glycolide | CC1(C(=O)OC(C(=O)O1)(C)C)C | C8H12O4
